US08633173B2
2-Chloro-8-(2-ethoxy-phenyl)-[1,2,4]triazolo[1,5-a]pyridine was prepared from 8-bromo-2-chloro-[1,2,4]triazolo[1,5-a]pyridine and 2-ethoxyphenylboronic acid in a manner analogous to Example 2c (0.42 g, 71%). MS=274 (MH)+.

reactant | 8-bromo-2-chloro-[1,2,4]triazolo[1,5-a]pyridine | BrC=1C=2N(C=CC1)N=C(N2)Cl | C6H3BrClN3
reactant | 2-ethoxyphenylboronic acid | C(C)OC1=C(C=CC=C1)B(O)O | C8H11BO3
product | 2-Chloro-8-(2-ethoxy-phenyl)-[1,2,4]triazolo[1,5-a]pyridine | ClC1=NN2C(C(=CC=C2)C2=C(C=CC=C2)OCC)=N1 | C14H12ClN3O
